US08471027B2
A 500 mL round-bottomed flask equipped with a stirrer was charged with 4-[(E)-3-(4-chloro-2-phenylamino-phenyl)-3-oxo-propenyl]-benzoic acid methyl ester (5.5 g, 14.0 mmol) and ethyl acetate (100 mL). The resulting mixture was stirred under a hydrogen atmosphere for 1 h. At this time, the catalyst was removed by filtration and washed with ethyl acetate. The filtrates were concentrated in vacuo to afford 4-[3-(4-chloro-2-phenylamino-phenyl)-3-oxo-propyl]-benzoic acid methyl ester (5.5 g, 99.5%) as a gummy solid. This material was used without further purification.

reactant | 4-[(E)-3-(4-chloro-2-phenylamino-phenyl)-3-oxo-propenyl]-benzoic acid methyl ester | 14.0 mmol, 5.5 g | COC(C1=CC=C(C=C1)\C=C\C(=O)C1=C(C=C(C=C1)Cl)NC1=CC=CC=C1)=O | C23H18ClNO3
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-[3-(4-chloro-2-phenylamino-phenyl)-3-oxo-propyl]-benzoic acid methyl ester | 5.5 g, 99.5% | COC(C1=CC=C(C=C1)CCC(=O)C1=C(C=C(C=C1)Cl)NC1=CC=CC=C1)=O | C23H20ClNO3
